US04380644
1.3 g of tert.-butyl (4S)-1-methyl-2-oxo-imidazolidine-4-carboxylate are dissolved in 15 ml of tetrahydro-furan, and 0.35 g of sodium hydride (62% oil dispersion) is added thereto under ice-cooling and stirring. A solution of (2S)-3-acetylthio-2-methylpropionyl chloride (prepared by heating a mixture of 1.5 g of (2S)-3-acetylthio-2-methylpropionic acid and 6 ml of thionyl chloride at 50° C. for 3 hours and then evaporting excess thionyl chloride under reduced pressure) in 5 ml of tetrahydrofuran is added dropwise to the mixture. Then, the mixture is treated in the same manner as described in Example 1-(4). 1.0 g of tert.-butyl (4S)-1-methyl-3-[(2S)-3-acetylthio-2-methylpropionyl]-2-oxoimidazolidine-4-carboxylate is obtained as colorless crystals.

reactant | tert.-butyl (4S)-1-methyl-2-oxo-imidazolidine-4-carboxylate | 1.3 g | CN1C(N[C@@H](C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | (2S)-3-acetylthio-2-methylpropionyl chloride | C(C)(=O)SC[C@@H](C(=O)Cl)C | C6H9ClO2S
reactant | (2S)-3-acetylthio-2-methylpropionic acid | 1.5 g | C(C)(=O)SC[C@H](C(=O)O)C | C6H10O3S
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydro-furan | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert.-butyl (4S)-1-methyl-3-[(2S)-3-acetylthio-2-methylpropionyl]-2-oxoimidazolidine-4-carboxylate | 1.0 g, Yield: 44.7% | CN1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@@H](CSC(C)=O)C)=O)=O | C15H24N2O5S
